US07705040B2
Methyl 3-(4-methoxyphenyl)propanoate (500 mg, 2.56 mmol) was dissolved in 30 mL of anhydrous dichloromethane. TiCl4 (2.1 mL, 19 mmol) and MeOCHCl2 (0.81 mL, 9.0 mmol) were added subsequently at −20° C. under Argon. The reaction mixture was stirred at −20° C. for 6 hours. Then the reaction mixture was slowly poured into a diluted hydrochloric acid solution. The dichloromethane layer was separated and washed with water followed by brine then dried over magnesium sulfate. The solvent was evaporated under reduced pressure. Then the crude residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/10) to obtain methyl 3-(3-formyl-4-methoxyphenyl)propanoate (ss-2) as a colorless oil (429 mg, 75% yield).

reactant | Methyl 3-(4-methoxyphenyl)propanoate | 2.56 mmol, 500 mg | COC1=CC=C(C=C1)CCC(=O)OC | C11H14O3
reactant | MeOCHCl2 | 9.0 mmol, 0.81 mL | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | TiCl4 | 19 mmol, 2.1 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 3-(3-formyl-4-methoxyphenyl)propanoate | 429 mg, 75% yield | C(=O)C=1C=C(C=CC1OC)CCC(=O)OC | C12H14O4
